US06670400B1
A solution of hydrazine hydrate solution (0.83 ml, 0.017 mole) in ethanol (20 ml) is added to a solution of N-[4-{benzyl[2-(2-methoxyphenoxy)ethyl]amino}butyl]phthalimide (7.2 g, 0.016 mole) in ethanol (70 ml), the solution is stirred and heated to reflux for 3 hours. After cooling to ambient temperature, the solvent is evaporated at reduced pressure and the residual oil is treated with 1 N hydrochloric acid (40 ml). The precipitate formed is removed by filtration, washed in water, and the filtrate and the washing liquids are made basic with potassium carbonate (16 g). The separated oil is extracted with dichloromethane (3×80 ml) and the extracts dried over magnesium sulfate. Filtration and evaporation of the solvent at reduced pressure yields 4.4 g (86%) of the theoretical yield in the form of an oil. The treatment of an etherized solution of the free base with a saturated solution of hydrogen chloride gas in ether makes it possible to obtain N-benzyl-N-[2-(2-methoxyphenoxy)ethyl]-1,4-butanediamine as a dihydrochlorated salt; mp 200-202 degrees C. after recrystallization from ethanol.

reactant | hydrazine hydrate | 0.017 mole, 0.83 ml | O.NN
reactant | N-[4-{benzyl[2-(2-methoxyphenoxy)ethyl]amino}butyl]phthalimide | 0.016 mole, 7.2 g | C(C1=CC=CC=C1)N(CCCCN1C(C=2C(C1=O)=CC=CC2)=O)CCOC2=C(C=CC=C2)OC | C28H30N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | N-benzyl-N-[2-(2-methoxyphenoxy)ethyl]-1,4-butanediamine | C(C1=CC=CC=C1)N(CCCCN)CCOC1=C(C=CC=C1)OC | C20H28N2O2
